US05686480
3-(4-Phenylpiperidin-1-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole
A solution of (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide (0.30 g), 4-phenylpiperidine (0.15 g) and diisopropylethylamine (0.30 cm3) in DMF (10 cm3) was heated under argon at 80° C. for 24 hours. The mixture was cooled, poured into water (25 cm3) and extracted with 50% ethyl acetate-diethyl ether (2×25 cm3). The extracts were dried (MgSO4), filtered and concentrated to give the title compound as a brown oil. This was crystallised as the half-oxalate salt from DMF-ethanol-ethyl acetate (0.045 g; 12%), m.p. 128°-230° C. (from DMF-EtOH-EtOAc); Found: C, 73.85; H, 6.8; N, 10.8. C23H25N3.0.5(CO2H)2.0.1(H2O) requires C, 73.9; H, 6.8; N, 10.8%. δH (360 MHz; d6 -DMSO; 353K) 1.70-1.92 (4H, m, 2 x NCH2CH2), 2.40-2.56 (2H, m, 2 x NCHAHBCH2 ; partially obscured by DMSO peak), 2.58-2.64 (1H, m, NCH2CH2CH), 2.78 (2H, t, J 7.5, --CH2 --), 2.90 (2H, t, J 7.5, --CH2 --), 3.16 (2H, broad d, J 11, 2 x NCHA HBCH2), 3.82 (2H, s, --CH2N), 7.15-7.30 (8H, m, 8 of ArH) and 7.66 (1H, d, J 7.7, 1 of ArH); m/z (CI+ ; NH3) 344 (MH+ ; 5%), 235 (5), 185 (18) and 162 (100).

reactant | (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide | 0.30 g | [I-].N1N=C(C=2CCC3=C(C12)C=CC=C3)C[N+](C)(C)C
reactant | 4-phenylpiperidine | 0.15 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | diisopropylethylamine | 0.30 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 25 cm3 | O | H2O
solvent | DMF | 10 cm3 | CN(C)C=O | C3H7NO
product | 3-(4-Phenylpiperidin-1-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole | C1(=CC=CC=C1)C1CCN(CC1)CC1=NNC=2C3=C(CCC12)C=CC=C3 | C23H25N3
